US07829560B2
3-Fluoro-N-[4-({2-[(2-hydroxyethyl)(methyl)amino]pyrimidin-4-yl}oxy)-1-naphthyl]-5-morpholin-4-ylbenzamide (Compound B333).
Compound is prepared from 3-fluoro-N-(4-{[2-(methylsulfonyl)pyrimidin-4-yl]oxy}-1-naphthyl)-5-morpholin-4-ylbenzamide and 2-methylaminoethanol according to conditions described in general procedure C. Mp: 100-102° C.; 1H NMR (400 MHz, DMSO-d6) δ 2.77-3.52 (m, 4 H), 3.26 (s, 4 H), 3.76 (m, 4 H), 4.62 (m, 1 H), 6.19-6.22 (m, 1 H), 7.02-7.05 (m, 1 H), 7.26 (d, J=8.4 Hz, 1 H), 7.41 (d, J=8.0 Hz, 1 H), 7.50 (s, 1 H), 7.56-7.63 (m, 3 H), 7.85 (d, J=7.6 Hz, 1 H), 8.00 (d, J=7.6 Hz, 1 H), 8.25 (d, J=5.4 Hz, 1 H), 10.47 (s, 1 H).

reactant | 3-fluoro-N-(4-{[2-(methylsulfonyl)pyrimidin-4-yl]oxy}-1-naphthyl)-5-morpholin-4-ylbenzamide | FC=1C=C(C(=O)NC2=CC=C(C3=CC=CC=C23)OC2=NC(=NC=C2)S(=O)(=O)C)C=C(C1)N1CCOCC1 | C26H23FN4O5S
reactant | 2-methylaminoethanol | CNCCO | C3H9NO
product | 3-Fluoro-N-[4-({2-[(2-hydroxyethyl)(methyl)amino]pyrimidin-4-yl}oxy)-1-naphthyl]-5-morpholin-4-ylbenzamide | FC=1C=C(C(=O)NC2=CC=C(C3=CC=CC=C23)OC2=NC(=NC=C2)N(C)CCO)C=C(C1)N1CCOCC1 | C28H28FN5O4
